US08530478B2
6′[(4-{[4-(Trifluoromethyl)phenyl]sulfonyl}-1-piperazinyl)carbonyl]-2,3′-bipyridine
To a solution of 1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (Description 1) (64.7 mg, 0.220 mmol) in DMF (3 ml) was added 2,3′-bipyridine-6′-carboxylic acid (Description 5) (44 mg, 0.220 mmol), HOBT.H2O (33.7 mg, 0.220 mmol), HBTU (83 mg, 0.220 mmol) and DIPEA (0.115 ml, 0.659 mmol) and the reaction mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under vacuum then DCM was added (5 ml) and washed with saturated NaHCO3 solution (5 ml). The product was concentrated under vacuum then dissolved in MeCN/DMSO 1:1 and purified by MDAP. The desired fractions were combined and evaporated under vacuum to give the title compound (83 mg).

reactant | 1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 0.220 mmol, 64.7 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)(F)F | C11H13F3N2O2S
reactant | 2,3′-bipyridine-6′-carboxylic acid | 0.220 mmol, 44 mg | N1=C(C=CC=C1)C=1C=NC(=CC1)C(=O)O | C11H8N2O2
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.220 mmol, 33.7 mg | O | H2O
reactant | HBTU | 0.220 mmol, 83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.659 mmol, 0.115 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6′[(4-{[4-(Trifluoromethyl)phenyl]sulfonyl}-1-piperazinyl)carbonyl]-2,3′-bipyridine | 83 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=N1)C1=NC=CC=C1)(F)F | C22H19F3N4O3S
